US05041462
Preparation of 2-(hydroxyacetylamino)-6-(methylamino)benzonitrile:
To a solution of 2-(acetoxyacetylamino)-6-(methylamino)benzonitrile (2 g) in methanol (250 ml) is added dropwise 28% aqueous ammonia (5.5 ml). The mixture is stirred at room temperature for 30 minutes, and thereafter, the solvent is distilled off under reduced pressure. The resulting crude crystals are recrystallized from ethanoltoluene to give the title compound (1.4 g) having the following physical properties.

reactant | 2-(acetoxyacetylamino)-6-(methylamino)benzonitrile | 2 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)NC | C12H13N3O3
reactant | ammonia | 5.5 ml | N | H3N
solvent | methanol | 250 ml | CO | CH4O
product | 2-(hydroxyacetylamino)-6-(methylamino)benzonitrile | 1.4 g | OCC(=O)NC1=C(C#N)C(=CC=C1)NC | C10H11N3O2
